*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/C0G(-55to125[deg])/1.20e-05[uF]/50[V]
* Murata P/N :GCM1555C1H120JA16
* Property : C = 1.20e-05[uF]
* Data Generated on Apr 08, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM1555C1H120JA16 Port1 Port2
C01 Port1 N01 1.20e-11
R01 Port1 N01 1.00e+11
L02 N01 N02 2.25e-10
R03 N02 N03 1.08e-01
L04 N03 N04 1.16e-11
R04 N03 N04 2.11e-01
L05 N04 N05 4.18e-11
R05 N04 N05 1.18e-01
C06 N05 N06 9.34e-11
L06 N05 N06 1.14e-11
R06 N05 N06 2.46e+00
C07 N06 N07 1.44e-11
L07 N06 N07 2.43e-11
R07 N06 N07 3.13e+00
C08 N07 Port2 4.41e-12
L08 N07 Port2 6.00e-11
R08 N07 Port2 5.00e+03
.ENDS GCM1555C1H120JA16
