*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/C0G(-55to125[deg])/3.30e-05[uF]/50[V]
* Murata P/N :GCM1555C1H330JA16
* Property : C = 3.30e-05[uF]
* Data Generated on Apr 08, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM1555C1H330JA16 Port1 Port2
C01 Port1 N01 3.30e-11
R01 Port1 N01 1.00e+11
L02 N01 N02 2.32e-10
R03 N02 N03 8.05e-02
L04 N03 N04 1.24e-11
R04 N03 N04 1.42e-01
L05 N04 N05 3.92e-11
R05 N04 N05 8.58e-02
C06 N05 N06 1.81e-10
L06 N05 N06 1.36e-11
R06 N05 N06 1.18e+00
C07 N06 N07 7.62e-11
L07 N06 N07 1.08e-11
R07 N06 N07 1.34e+00
C08 N07 N08 5.35e-11
L08 N07 N08 7.82e-12
R08 N07 N08 1.22e+00
C09 N08 Port2 2.95e-12
L09 N08 Port2 7.19e-11
R09 N08 Port2 1.00e+05
.ENDS GCM1555C1H330JA16
