*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/C0G(-55to125[deg])/3.30e-04[uF]/50[V]
* Murata P/N :GCM1555C1H331JA16
* Property : C = 3.30e-04[uF]
* Data Generated on Apr 08, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM1555C1H331JA16 Port1 Port2
C01 Port1 N01 3.30e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 1.98e-10
R03 N02 N03 7.51e-02
L04 N03 N04 6.24e-11
R04 N03 N04 9.54e-01
C05 N04 N05 4.13e-09
L05 N04 N05 5.92e-12
R05 N04 N05 1.89e-01
C06 N05 N06 7.02e-10
L06 N05 N06 1.50e-11
R06 N05 N06 4.64e-01
C07 N06 N07 6.03e-11
L07 N06 N07 5.81e-12
R07 N06 N07 7.78e-01
C08 N07 Port2 2.33e-12
L08 N07 Port2 1.04e-10
R08 N07 Port2 1.00e+05
.ENDS GCM1555C1H331JA16
