*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/C0G(-55to125[deg])/4.70e-04[uF]/50[V]
* Murata P/N :GCM1555C1H471JA16
* Property : C = 4.70e-04[uF]
* Data Generated on Apr 08, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM1555C1H471JA16 Port1 Port2
C01 Port1 N01 4.70e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 1.30e-10
R03 N02 N03 5.29e-02
L04 N03 N04 7.93e-11
R04 N03 N04 6.77e-01
C05 N04 N05 6.72e-09
L05 N04 N05 5.61e-12
R05 N04 N05 2.07e-01
C06 N05 N06 1.85e-09
L06 N05 N06 9.35e-12
R06 N05 N06 4.02e-01
C07 N06 N07 7.69e-11
L07 N06 N07 4.58e-12
R07 N06 N07 1.64e+00
C08 N07 Port2 1.50e-12
L08 N07 Port2 1.26e-10
R08 N07 Port2 1.00e+05
.ENDS GCM1555C1H471JA16
