*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/C0G(-55to125[deg])/6.80e-05[uF]/50[V]
* Murata P/N :GCM1555C1H680JA16
* Property : C = 6.80e-05[uF]
* Data Generated on Apr 08, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM1555C1H680JA16 Port1 Port2
C01 Port1 N01 6.80e-11
R01 Port1 N01 1.00e+11
L02 N01 N02 2.48e-10
R03 N02 N03 1.27e-01
L04 N03 N04 8.27e-12
R04 N03 N04 9.27e-02
L05 N04 N05 2.94e-11
R05 N04 N05 6.90e-02
C06 N05 N06 6.75e-10
L06 N05 N06 5.85e-12
R06 N05 N06 3.14e-01
C07 N06 N07 7.64e-11
L07 N06 N07 2.04e-11
R07 N06 N07 1.38e+00
C08 N07 N08 2.68e-11
L08 N07 N08 1.52e-11
R08 N07 N08 1.25e+00
C09 N08 Port2 2.46e-12
L09 N08 Port2 8.79e-11
R09 N08 Port2 1.00e+05
.ENDS GCM1555C1H680JA16
