*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/C0G(-55to125[deg])/4.70e-06[uF]/50[V]
* Murata P/N :GCM1555C1H4R7CA16
* Property : C = 4.70e-06[uF]
* Data Generated on Apr 08, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM1555C1H4R7CA16 Port1 Port2
C01 Port1 N01 4.70e-12
R01 Port1 N01 1.00e+11
L02 N01 N02 2.83e-10
R03 N02 N03 2.47e-01
L04 N03 N04 8.42e-12
R04 N03 N04 2.57e-01
C05 N04 Port2 9.29e-12
L05 N04 Port2 4.25e-11
R05 N04 Port2 1.51e+01
.ENDS GCM1555C1H4R7CA16
